US04855324
To 6.8g (70 mmol) of 3-butynoic acid dissolved in 150ml of 1:1 tetrahydrofuran (THF):hexamethyl phosphoric triamide (HMPA) and cooled to -20°C. is added via syringe a solution of n-butyl lithium in hexane (1.6N, 2 equiv). The mixture was allowed to warm to 0°C. The mixture is stirred for 30 minutes at this temperature and then 150g (1.1 equiv) of 1-iodohexane is added dropwise as a solution in 20ml of THF. The mixture is allowed to warm to room temperature and then is partitioned between ether and water. The aqueous layer is acidified with 3N H2SO4 and extracted with ether. The combined organic extracts are washed with brine and dried (Na2SO4). Evaporation of the volatiles in vacuo and chromatography of the crude on silica gel (ethyl acetate/hexane/acetic acid; 10:90:0.1) affords 4.5g of pure 3-decynoic acid.

reactant | 3-butynoic acid | 70 mmol, 6.8g | C(CC#C)(=O)O | C4H4O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.6N, 2 equiv | CCCCCC | C6H14
reactant | 1-iodohexane | ICCCCCC | C6H13I
solvent | tetrahydrofuran | 150ml | O1CCCC1 | C4H8O
solvent | THF | 20ml | O1CCCC1 | C4H8O
solvent | hexamethyl phosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-decynoic acid | 4.5g | C(CC#CCCCCCC)(=O)O | C10H16O2
